US05976886
According to another aspect of the invention, there is provided a method of producing an aqueous fluorescin solution, in which about 1 g of fluorescein is mixed with about 100 ml of a 10% sodium hydroxide aqueous solution and heated in the presence of about 10 g of zinc to produce a colorless fluorescin solution, wherein the improvement of the method includes heating the mixture of fluorescein and 10% sodium hydroxide aqueous solution with about 20 mesh zinc particles to about boiling in a non-refluxing container to produce a nearly colorless fluorescin solution containing zinc particles, and decanting the colorless fluorescin solution from the zinc particles.

reactant | fluorescein | about 1 g | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | zinc | about 10 g | [Zn] | Zn
product | fluorescin | C=1C=CC(=C(C1)C2C=3C=CC(=CC3OC4=C2C=CC(=C4)O)O)C(=O)O | C20H14O5
